### PR TITLE
Improve low-level lemmas on `OperationPtr.getOperand`

### PR DESCRIPTION
**Pull request by math-fehr**
Also, fix `OperationPtr.getOperand` definition to use a `!` definition.

### CODE REVIEW

**Comment by tobiasgrosser** [comment]
Rebased on main to get CI clean. (I won't do the others, in case this breaks your workflow).

File: Veir/IR/Basic.lean [hunk 1]
```diff
@@ -382,16 +382,16 @@ theorem getOpOperand_op {op : OperationPtr} {index : Nat} :
   grind [getOpOperand]
 
 def getOperand (op : OperationPtr) (ctx : IRContext OpInfo) (index : Nat)
-    (inBounds : op.InBounds ctx := by grind) (h : index < getNumOperands op ctx inBounds := by grind) : ValuePtr :=
-  ((op.get ctx (by grind)).operands[index]'(by grind [getNumOperands])).value
+    (inBounds : op.InBounds ctx := by grind) (h : index < getNumOperands! op ctx := by grind) : ValuePtr :=
+  ((op.get ctx (by grind)).operands[index]'(by grind [getNumOperands!])).value
```
Comment (ineol) [inline Veir/IR/Basic.lean:386]: Shouldn't the proof to the call to get be implicit? I think we have a small cleanup task to harmonize these.

**Review by ineol — APPROVED** [review]
